US07745437B2
N-{3-[1-(6-chloro-pyrimidin-4-yl)-1H-imidazol-2-ylamino]-4-methyl-phenyl}-3-trifluoromethyl-benzamide
A mixture of N-[3-(1H-Imidazol-2-ylamino)-4-methyl-phenyl]-3-trifluoromethyl-benzamide (330 mg, 0.92 mmol), 4,6-dichloropyrimidine (409 mg, 2.75 mmol), N,N-diisopropylethyl amine (500 μL, 2.87 mmol) in 2-butanol (20 mL) is heated at 110° C. After 16 hours, the reaction mixture is concentrated. The solid is washed with saturated sodium carbonate, water, ethyl acetate, and dried to give the title compound. 1H NMR 600 MHz (DMSO-d6) δ 10.71 (s, 1H), 10.50 (s, 1H), 9.09 (s, 1H), 8.80 (s, 1H), 8.33 (s, 1H), 8.29 (d, J=7.8 Hz, 1H), 8.17 (s, 1H), 7.96 (d, J=8.4 Hz, 1H), 7.84 (s, 1H), 7.77 (t, J=8.4 Hz, 1H), 7.42 (d, J=7.2 Hz, 1H), 7.21 (d, J=8.4 Hz, 1H), 6.95 (s, 1H), 2.38 (s, 3H); MS m/z 473.3 (M+1).

reactant | N-[3-(1H-Imidazol-2-ylamino)-4-methyl-phenyl]-3-trifluoromethyl-benzamide | 0.92 mmol, 330 mg | N1C(=NC=C1)NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C18H15F3N4O
reactant | 4,6-dichloropyrimidine | 2.75 mmol, 409 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | N,N-diisopropylethyl amine | 2.87 mmol, 500 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 2-butanol | 20 mL | CC(CC)O | C4H10O
product | N-{3-[1-(6-chloro-pyrimidin-4-yl)-1H-imidazol-2-ylamino]-4-methyl-phenyl}-3-trifluoromethyl-benzamide | ClC1=CC(=NC=N1)N1C(=NC=C1)NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C22H16ClF3N6O
